US04891363
dl-7-(trans-3-Hexadecyloxytetrahydropyran-2-yl)methoxy-1-heptanol
A solution of 1.652 g of dl-trans-2-[7-(tetrahydropyran-2-yloxy)heptyloxymethyl]tetrahydropyran-3-ol (prepared as described in Preparation 54) in 5 ml of dimethylformamide was added dropwise at room temperature to a suspension of 0.24 g of sodium hydride (as a 55% w/w dispersion in mineral oil) in 5 ml of dimethylformamide. The reaction mixture was stirred at room temperature for 30 minutes, after which it was heated on an oil bath kept at 60° C. for a further 30 minutes. At the end of this time, 1.83 g of hexadecyl bromide were added at room temperature, after which the mixture was heated on an oil bath kept at 60° C. for 30 minutes, whilst stirring. The mixture was then cooled, and 0.24 g of sodium hydride (as a 55% w/w dispersion in mineral oil) was added to it at room temperature. The mixture was then heated on an oil bath kept at 60° C. for 30 minutes. The reaction mixture was allowed to cool to room temperature and a further 1.83 g of hexadecyl bromide was added to it. The reaction mixture was then heated on an oil bath kept at 60° C. for 30 minutes, whilst stirring, after which it was cooled and poured into water and then extracted three times with methylene chloride. The combined extracts were dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. 40 ml of methanol and 0.5 ml of concentrated hydrochloric acid were added to a solution of the oil residue (5.74 g) dissolved in 15 ml of tetrahydrofuran, and the mixture was stirred at room temperature for 30 minutes. The solvent was then removed by distillation under reduced pressure, and the residue was diluted with water and then extracted twice with diethyl ether. The combined extracts were washed with a saturated aqueous solution of sodium bicarbonate and with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The oily residue (5.14 g) was subjected to column chromatography through 90 g of silica gel. 2.123 g of the title compound were obtained, as a viscous oil, from those fractions eluted with a 2:1 by volume mixture of hexane and ethyl acetate.

reactant | trans-2-[7-(tetrahydropyran-2-yloxy)heptyloxymethyl]tetrahydropyran-3-ol | O1C(CCCC1)OCCCCCCCOC[C@@H]1OCCC[C@H]1O | C18H34O5
reactant | sodium hydride | 0.24 g | [H-].[Na+]
reactant | hexadecyl bromide | 1.83 g | C(CCCCCCCCCCCCCCC)Br | C16H33Br
reactant | sodium hydride | 0.24 g | [H-].[Na+]
reactant | hexadecyl bromide | 1.83 g | C(CCCCCCCCCCCCCCC)Br | C16H33Br
reactant | water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 7-(trans-3-Hexadecyloxytetrahydropyran-2-yl)methoxy-1-heptanol | 2.123 g | C(CCCCCCCCCCCCCCC)O[C@H]1[C@@H](OCCC1)COCCCCCCCO | C29H58O4
